US07696227B2
To a solution of 2-methyl-6-nitroquinoline (12 g, 63.84 mmol) in HCl (1N, 450 mL) was added a solution of SnCl2.2H2O (72 g, 0.32 mol) in HCl (1N, 150 mL) slowly. The reaction mixture was heated to reflux for 15 min, then cooled to room temperature. The precipitate was filtered. The filtrate was basified by aqueous KOH and extracted with EtOAc. The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure to give 6.9 g of 2-methylquinolin-6-amine (68.3%). MS [M++1]=159, LC-MS: tR=0.255 min.

reactant | 2-methyl-6-nitroquinoline | 63.84 mmol, 12 g | CC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C10H8N2O2
reactant | SnCl2.2H2O | 0.32 mol, 72 g | O.O.Cl[Sn]Cl
solvent | HCl | 1N, 450 mL | Cl | ClH
solvent | HCl | 1N, 150 mL | Cl | ClH
product | 2-methylquinolin-6-amine | 6.9 g, 68.3% | CC1=NC2=CC=C(C=C2C=C1)N | C10H10N2
